US07259183B2
1.19 g (5 mmol) of 2-bromo-5-chloro-nitrobenzene were dissolved in 50 ml THF. At a temperature of −45° C. 15 ml of a 1M vinyl magnesium bromide solution in THF were added under nitrogen in such a way that the temperature did not exceed −40° C. After complete addition the dark solution was stirred for 30 min at −40° C. The reaction mixture was quenched with 10 ml aqueous saturated ammonium chloride solution and extracted twice with diethyl ether. The combined organic layers were washed once with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (100 g silica gel; heptane/EtOAc 19:1) to yield 562 mg (49%) of 7-bromo-4-chloro-1H-indole as an orange oil. MS (EI) 229.0 (80), 231.0 (100), 233.0 (30) (M)+.

reactant | 2-bromo-5-chloro-nitrobenzene | 5 mmol, 1.19 g | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | vinyl magnesium bromide | 1M | C(=C)[Mg]Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 7-bromo-4-chloro-1H-indole | 562 mg, 49% | BrC=1C=CC(=C2C=CNC12)Cl | C8H5BrClN
